US07491724B2
A solution of acetyl chloride (24 uL, 0.00033. mol) in 0.5 ml of ACN was added to a solution of 1-tert-butyl 2-methyl(1S,2S,4R)-4-(piperidin-4-yloxy)cyclohexane-1,2-dicarboxylate hydrochloride made above (50 mg, 0.0001 mol) and 4-methylmorpholine (44 uL, 0.00040 mol) in acetonitrile (1.5 mL, 0.029 mol) at 22 Celsius. It was stirred at rt for 30 min, then quenched with Water, extracted with EA, and concentrated to give 1-tert-butyl 2-methyl (1S,2S,4R)-4-[(1-acetylpiperidin-4-yl)oxy]cyclohexane-1,2-dicarboxylate.

reactant | acetyl chloride | 24 uL | C(C)(=O)Cl | C2H3ClO
reactant | 1-tert-butyl 2-methyl(1S,2S,4R)-4-(piperidin-4-yloxy)cyclohexane-1,2-dicarboxylate hydrochloride | Cl.N1CCC(CC1)O[C@H]1C[C@@H]([C@H](CC1)C(=O)OC(C)(C)C)C(=O)OC
reactant | 4-methylmorpholine | 0.00040 mol, 44 uL | CN1CCOCC1 | C5H11NO
solvent | ACN | 0.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.029 mol, 1.5 mL | C(C)#N | C2H3N
product | 1-tert-butyl 2-methyl (1S,2S,4R)-4-[(1-acetylpiperidin-4-yl)oxy]cyclohexane-1,2-dicarboxylate | C(C)(=O)N1CCC(CC1)O[C@H]1C[C@@H]([C@H](CC1)C(=O)OC(C)(C)C)C(=O)OC | C20H33NO6
